US08110588B2
3-(2-Fluoro-4-trifluoromethyl-phenyl)-5-(4-trifluoromethoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine (19)
To a stirred and ice-cooled solution of sodium methoxide (0.296 g, 5.4848 mmol) in methanol (25 ml), commercial 4-(trifluoromethoxy)phenylacetonitrile (0.809 g, 4.0222 mmol) and 1-azido-2-fluoro-4-trifluoromethyl-benzene (0.750 g, 3.6565 mmol) are added portion wise. The reaction mixture is allowed to reach room temperature spontaneously overnight, concentrated in vacuo, added water, and extracted with ethylacetate (3×80 ml). The combined organic layers are dried over MgSO4, filtered and evaporated, to afford a brown solid residue (1.385 g, 94% mass balance). This crude material is purified by column chromatography over silica gel (230-400 mesh) eluting with 9% ethylacetate in petroleum ether, to obtain the title compound as an off-white solid (0.490 g, 33% yield). M.p. 134.2-134.9° C. LC-ESI-HRMS of [M+H]+ shows 407.0747 Da. Calc. 407.074282 Da, dev. 1 ppm.

reactant | sodium methoxide | 5.4848 mmol, 0.296 g | C[O-].[Na+]
reactant | 4-(trifluoromethoxy)phenylacetonitrile | 4.0222 mmol, 0.809 g | FC(OC1=CC=C(C=C1)CC#N)(F)F | C9H6F3NO
reactant | 1-azido-2-fluoro-4-trifluoromethyl-benzene | 3.6565 mmol, 0.750 g | N(=[N+]=[N-])C1=C(C=C(C=C1)C(F)(F)F)F | C7H3F4N3
solvent | methanol | 25 ml | CO | CH4O
product | 3-(2-Fluoro-4-trifluoromethyl-phenyl)-5-(4-trifluoromethoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine | 0.490 g, 33% yield | FC1=C(C=CC(=C1)C(F)(F)F)N1N=NC(=C1N)C1=CC=C(C=C1)OC(F)(F)F | C16H9F7N4O
